US09120822B2
Potassium tert-butoxide (354 mg, 3.15 mmol, 2.5 eq) is added at room temperature to a stirred solution of [trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-cyclohexyl]-carbamic acid tert-butyl ester (2.6 g, 1.26 mmol, 1.0 eq) in dimethyl sulfoxide (45 mL) and tert-butanol (13 mL) under oxygen atmosphere. After 1 hour stirring under oxygen atmosphere, the reaction mixture is purged with nitrogen, and extracted with dichloromethane (3×200 mL) and water (200 mL). The combined organic layers are dried over sodium sulfate, filtered and concentrated to give a residue that is purified by column chromatography (silica gel, eluent: dichloromethane:methanol, 250:1 to 100:1, v/v) to afford [trans-4-(4-hydroxy-6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-cyclohexyl]-carbamic acid tert-butyl ester as a white solid that is further purified by preparative HPLC to obtain a white solid (70 mg, 42% yield).

reactant | Potassium tert-butoxide | 3.15 mmol, 354 mg, 2.5 eq | CC(C)([O-])C.[K+]
reactant | [trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-cyclohexyl]-carbamic acid tert-butyl ester | 1.26 mmol, 2.6 g, 1.0 eq | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C1COC=2C=NC3=CC=C(C=C3C2C1)OC)=O | C24H32N2O4
solvent | dimethyl sulfoxide | 45 mL | CS(=O)C | C2H6OS
solvent | tert-butanol | 13 mL | C(C)(C)(C)O | C4H10O
product | [trans-4-(4-hydroxy-6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-cyclohexyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C1COC=2C=NC3=CC=C(C=C3C2C1O)OC)=O | C24H32N2O5
